US03956327
The aforesaid British Patent Specification No. 957,797 also describes (Example 14) the reaction of veratraldehyde with β-dimethylaminopropionitrile in the presence of sodium in ethanol to give a mixture of β-dimethylaminoveratralnitrile (III) and β-ethoxyveratralnitrile (IV) in a 32% yield. ##EQU3## It is stated in the Example that this mixture was subsequently cyclised with guanidine to give 2,4-diamino-5-(3',4'-dimethoxybenzyl)-pyrimidine. It is to be noted that both the compounds (III) and (IV) above are `benzal` derivatives.

reactant | veratraldehyde | C(C1=CC(OC)=C(OC)C=C1)=O | C9H10O3
reactant | β-dimethylaminopropionitrile | CN(CCC#N)C | C5H10N2
reactant | sodium | [Na] | Na
reactant | guanidine | NC(=N)N | CH5N3
solvent | ethanol | C(C)O | C2H6O
product | 2,4-diamino-5-(3',4'-dimethoxybenzyl)-pyrimidine | 32% yield | NC1=NC=C(C(=N1)N)CC1=CC(=C(C=C1)OC)OC | C13H16N4O2
